US04713393
A mixture of (5-benzyloxy-2,3-dihydro-benzofuran-6-yl)methyl triphenylphosphine iodide (2.0 g, 0.0033 mol) in tetrahydrofuran (20 ml) was cooled to an internal temperature of 5° C. under nitrogen and a solution of n-butyllithium (1.55M in hexane, 1.9 ml, 0.0030 mol) was added dropwise. The resulting mixture was stirred for 10 minutes then benzophenone (0.47 g, 0.0030 mol) was added portionwise. The ice bath was removed and the reaction was allowed to stir for 18 hours, then heated to reflux for 4 hours. The reaction mixture was concentrated to a dark oil which was dissolved in ethyl acetate (20 ml), washed with water (10 ml), saturated sodium chloride (10 ml). The combined organic layers were dried (MgSO4), concentrated then chromatographed over silica gel (hexane/ethyl acetate, 90/10, an eluent) to afford 1-(5-benzyloxy-2,3-dihydrobenzofuran-6-yl)-2,2-diphenyl-ethene (0.27 g, 22%).

reactant | (5-benzyloxy-2,3-dihydro-benzofuran-6-yl)methyl triphenylphosphine iodide | 0.0033 mol, 2.0 g | [I-].C(C1=CC=CC=C1)OC=1C(=CC2=C(CCO2)C1)CP(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-butyllithium | 0.0030 mol, 1.55M, 1.9 ml | C(CCC)[Li]
reactant | benzophenone | 0.0030 mol, 0.47 g | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-(5-benzyloxy-2,3-dihydrobenzofuran-6-yl)-2,2-diphenyl-ethene | 0.27 g, 22% | C(C1=CC=CC=C1)OC=1C(=CC2=C(CCO2)C1)C=C(C1=CC=CC=C1)C1=CC=CC=C1 | C29H24O2
